US04458075
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]piperidine hydrochloride
To 30 ml of dry dimethylformamide, was added 4.2 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 2.0 ml of piperidine, 8.0 g of sodium bicarbonate, and a crystal of potassium iodide. After stirring at 80° C. for two hrs, the mixture was filtered and the filtrate was evaporated to an oil. The oil was stirred with 100 ml of water for five mins and then extracted with ether. The ether extract was washed with water (2×), saturated sodium chloride solution and dried over anhydrous magnesium sulfate. After filtering, the solvent was evaporated to an oil. The oil was treated with ethereal hydrogen chloride, and the resultant salt was twice recrystallized from ethyl acetate/methanol/ether to give 2.5 g of (42%) product, mp 163°-165° C.

reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 4.2 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | piperidine | 2.0 ml | N1CCCCC1 | C5H11N
reactant | sodium bicarbonate | 8.0 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]piperidine hydrochloride | 42% | Cl.FC1=CC2=C(C(=NO2)CCCN2CCCCC2)C=C1 | InChI=1S/C15H19FN2O.ClH/c16-12-6-7-13-14(17-19-15(13)11-12)5-4-10-18-8-2-1-3-9-18;/h6-7,11H,1-5,8-10H2;1H
